OpenCircuit factory test: forward_02.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8604441405624229888
* Revision: Rev:1.0
.model OC_HONGJIACHENG_SSL510B D(IS=4.1651893587e-5 N=1.1000000000e0 RS=1.0000000000e-4)

.temp 2.5000000000e1
Itest 0 anode PULSE(0 1.0000000000e-1 3.0000000000e-4 3.0000000000e-7 3.0000000000e-7 3.0000000000e-4 3.0000000000e-2)
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_SSL510B
.tran 7.5000000000e-6 5.2530000000e-4
.end
